US07557114B2
(a) 5-Methyl-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester
To a stirred solution 0.38 mmol 5-chloro-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A44(a)) in 3 ml dioxane were added 0.02 mmol bis(tri-tert-butylphosphine)palladium(0), 0.84 mmol cesium fluoride and 0.77 mmol tetramethylstannane and the mixture was heated at 80° C. for 5 h. The reaction mixture was then cooled to room temperature and concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a light yellow solid (43% yield). MS (m/e): 219.4 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-chloro-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)N1CCOCC1 | C17H23ClN2O3
reactant | cesium fluoride | 0.84 mmol | [F-].[Cs+]
reactant | tetramethylstannane | 0.77 mmol | C[Sn](C)(C)C
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.02 mmol | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 5-Methyl-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester | 43% yield | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C)N1CCOCC1 | C18H26N2O3
